US07250440B2
5-Fluoro-1-(4-benzyloxyphenyl)-2-methyl-1H-indole-3-carbaldehyde
Phosphorous oxychloride (5 mL) was added to anhydrous dimethylformamide (10 mL) and the mixture allowed to stir at room temperature for 15 min whereupon a solution of 5-fluoro-1-(4-benzyloxyphenyl)-2-methyl-1H-indole (1.63 g, 4.9 mmol) in dimethylformamide (10 mL) was added and reacted according to the procedure used in Example 2a to afford a tan solid (85%): mp 219-220° C.; 1H NMR (DMSO-d6): δ 2.53 (3H, s), 5.22 (2H, s), 6.99-7.06 (2H, m), 7.27 (2H, d, J=8.9 Hz), 7.37-7.53 (7H, m), 7.86 (1H, dd, J=2.5 Hz, J=9.5 Hz); MS m/z (M+H)+ 360. Anal. for C23H18FNO2·0.5H2O: Calc'd: C, 74.99; H, 5.20; N, 3.80. Found: C, 74.91; H, 4.96; N, 3.59.

reactant | Phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-fluoro-1-(4-benzyloxyphenyl)-2-methyl-1H-indole | 4.9 mmol, 1.63 g | FC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C22H18FNO
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-Fluoro-1-(4-benzyloxyphenyl)-2-methyl-1H-indole-3-carbaldehyde | 85% | FC=1C=C2C(=C(N(C2=CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C)C=O | C23H18FNO2
